* Top level spice file 

.option post=1
*.chkanode type=gate dv=0.5*pvdd report=active
.option parhier = local 
.option measform = 1
.option lis_new
.option post probe

*************************************** User defined functions ****************
.param V_meas(node, ref) = 'v(node) - v(ref)'


*************************************** Input Models**************************
	*obsolsted *.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0426.txt				*** define load current source model 
	*obsolsted *.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0426.txt				*** define load current source model

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0510_100clk.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0510_100clk.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p1_0511_200clk_51002.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p1_0511_200clk_51002.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_25p_idle_clk_51003.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_25p_idle_clk_51003.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_0p1scale_510041.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_0p1scale_510041.inc

	.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_0p2scale_510042.inc		** POR as of 0512
	.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_0p2scale_510042.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_0p3scale_510043.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_0p3scale_510043.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_0p4scale_510044.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_0p4scale_510044.inc

	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_PA_test4_act_0p3_0p2_0511_200clk_0p5scale_510045.inc
	*.inc ./hspice_inc/out_curr_profile_NNE_4x2grp_MA_test4_act_0p3_0p2_0511_200clk_0p5scale_510045.inc

.inc ./hspice_inc/model_die_NNE_PA.inc									*** define die model 
.inc ./hspice_inc/model_die_NNE_MA.inc									*** define die model 

	*.inc ./hspice_inc/andes_0407_cut_NNE_IdEM_wt0p5.cir							*** define pkg model 
	.inc ./hspice_inc/pkge_230329_FCBGA_L12_mammoth_20230406_5_add0510_6_v2_IdEM.cir

*.inc ./hspice_inc/ACM2_PT00547399_A_01_cut_VDD_GPU_v2_toHFSS3DLayout_IdEM3.cir				*** define PCB model 
*.param PCB_model = str('ACM2_PT00547399_A_01_cut_VDD_GPU_v2_toHFSS3DLayout_IdEM3')

*.inc ./hspice_inc/ACM2_PMIC_change_Cadera_17p2_stkManip_GPU_cut_RmLF_IdEM0p5.cir
*.param PCB_model = str('ACM2_PMIC_change_Cadera_17p2_stkManip_GPU_cut_RmLF_IdEM0p5')

.inc ./hspice_inc/ACM2_Cadera_GPU_0505_cut_RmLF_IdEM_fixDC.cir
.param PCB_model = str('ACM2_Cadera_GPU_0505_cut_RmLF_IdEM_fixDC')

*************************************** cap model *****************************
.inc ../models_cap/GCM155D70E106ME36_DC0V_125degC_0402_10uF.mod
.inc ../models_cap/GCM155D70G475ME36_DC0V_125degC_0402_4p7uF.mod
.inc ../models_cap/GCM155C71A105KE38_DC0V_125degC_0402_1uF.mod
.inc ../models_cap/GCM31CD70G476ME02_DC0V_125degC_1206_47uF.mod
.inc ../models_cap/GCM32ED70E107ME36_DC0V_125degC_1210_100uF.mod
.inc ../models_cap/GCM033D70E105ME36_DC0V_125degC_0201_1uF.mod 
.inc ../models_cap/NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF.mod
.inc ../models_cap/LLC152D70G105ME01_DC0V_125degC_0204_1uF.mod

.param mlcc_1uF_0402 	= str('LLC152D70G105ME01_DC0V_125degC_0204_1uF')
.param mlcc_1uF_0201 	= str('GCM033D70E105ME36_DC0V_125degC_0201_1uF')
.param mlcc_1uF_0402_3T	= str('NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF')
.param mlcc_1uF_0204	= str('LLC152D70G105ME01_DC0V_125degC_0204_1uF')
.param mlcc_4p7uF_0402 	= str('GCM155D70G475ME36_DC0V_125degC_0402_4p7uF')
.param mlcc_10uF_0402 	= str('GCM155D70E106ME36_DC0V_125degC_0402_10uF')
.param mlcc_47uF_1206	= str('GCM31CD70G476ME02_DC0V_125degC_1206_47uF')
.param mlcc_100uF_1210	= str('GCM32ED70E107ME36_DC0V_125degC_1210_100uF')


*************************************** Input params **************************
.param Vdd 	= 0.788

.param NNE_die_PA = str('model_die_lumped_nne_pa')
.param NNE_die_MA = str('model_die_lumped_nne_ma')

.param Cdie_PA 	= '123.n'
.param Cdie_MA 	= '96.n'
.param Rdie_PA 	= '1.02m'
.param Rdie_MA 	= '1.3m'
.param Rleak 	= 0.84

.param tStep	= 10.p
.param tStop	= 50.u


*************************************** PMIC **********************************
Vref_gnd 	ref_gnd		0	0				*** opt 1/2 ideal PMIC w/o remote sense feedback
*E_fdbk	ref_gnd	0	VCVS DELAY pmic_pwr pkg_bump_1_0  td=50.n	*** opt 2/2 VCVS to model feedback

VshortPMIC	pmic_pwr	ref_gnd	Vdd		*** can be switched to PMIC model 

*************************************** Socket ********************************
Rskt	bga_pcb		bga_pkg		0				*** can add socket model 

*************************************** PCB ***********************************
Xblk_PCB 
+ bga_pcb		ref_gnd
+ pmic_pwr		ref_gnd
+ pcbCap_1866	ref_gnd
+ pcbCap_1867	ref_gnd
+ pcbCap_1868	ref_gnd
+ pcbCap_1869	ref_gnd
+ pcbCap_1870	ref_gnd
+ pcbCap_1871	ref_gnd
+ pcbCap_1872	ref_gnd
+ pcbCap_1873	ref_gnd
+ pcbCap_1956	ref_gnd
+ pcbCap_1957	ref_gnd
+ pcbCap_1958	ref_gnd
+ pcbCap_1959	ref_gnd
+ pcbCap_1960	ref_gnd
+ pcbCap_1961	ref_gnd
+ pcbCap_1962	ref_gnd
+ pcbCap_1963	ref_gnd
+ pcbCap_2042	ref_gnd
+ pcbCap_2043	ref_gnd
+ pcbCap_2044	ref_gnd
+ pcbCap_2045	ref_gnd
+ pcbCap_2046	ref_gnd
+ pcbCap_2047	ref_gnd
+ pcbCap_2048	ref_gnd
+ pcbCap_2109	ref_gnd
+ pcbCap_2110	ref_gnd
+ pcbCap_2111	ref_gnd
+ pcbCap_2112	ref_gnd
+ pcbCap_2159	ref_gnd
+ pcbCap_2160	ref_gnd
+ pcbCap_2161	ref_gnd
+ pcbCap_2162	ref_gnd
+ pcbCap_2163	ref_gnd
+ pcbCap_2164	ref_gnd
+ pcbCap_2165	ref_gnd
+ pcbCap_2227	ref_gnd
+ pcbCap_2228	ref_gnd
+ pcbCap_2229	ref_gnd
+ pcbCap_2230	ref_gnd
+ pcbCap_2231	ref_gnd
+ pcbCap_2232	ref_gnd
+ pcbCap_2233	ref_gnd
+ pcbCap_2266	ref_gnd
+ pcbCap_2267	ref_gnd
+ pcbCap_2268	ref_gnd
+ pcbCap_2269	ref_gnd
+ pcbCap_2270	ref_gnd
+ pcbCap_2271	ref_gnd
+ pcbCap_2272	ref_gnd
+ pcbCap_2329	ref_gnd
+ pcbCap_2330	ref_gnd
+ pcbCap_2331	ref_gnd
+ pcbCap_2332	ref_gnd
+ pcbCap_2333	ref_gnd
+ pcbCap_2334	ref_gnd
+ pcbCap_2335	ref_gnd
+ pcbCap_2381	ref_gnd
+ pcbCap_2382	ref_gnd
+ str(PCB_model)

*** PCB cap ***
XpcbCap_C_brd_1866		pcbCap_1866 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1867		pcbCap_1867 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1868		pcbCap_1868 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1869		pcbCap_1869 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1870		pcbCap_1870 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1871		pcbCap_1871 	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
XpcbCap_C_brd_1872		pcbCap_1872 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1873		pcbCap_1873 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1956		pcbCap_1956 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1957		pcbCap_1957 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1958		pcbCap_1958 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_1959		pcbCap_1959 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1960		pcbCap_1960 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1961		pcbCap_1961 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1962		pcbCap_1962 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_1963		pcbCap_1963 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_2042		pcbCap_2042 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2043		pcbCap_2043 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2044		pcbCap_2044 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2045		pcbCap_2045 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2046		pcbCap_2046 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2047		pcbCap_2047 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2048		pcbCap_2048 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2109		pcbCap_2109 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2110		pcbCap_2110 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2111		pcbCap_2111 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2112		pcbCap_2112 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2159		pcbCap_2159 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2160		pcbCap_2160 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2161		pcbCap_2161 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2162		pcbCap_2162 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2163		pcbCap_2163 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2164		pcbCap_2164 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2165		pcbCap_2165 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2227		pcbCap_2227 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2228		pcbCap_2228 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2229		pcbCap_2229 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2230		pcbCap_2230 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2231		pcbCap_2231 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2232		pcbCap_2232 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2233		pcbCap_2233 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2266		pcbCap_2266 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2267		pcbCap_2267 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2268		pcbCap_2268 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2269		pcbCap_2269 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2270		pcbCap_2270 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2271		pcbCap_2271 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2272		pcbCap_2272 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2329		pcbCap_2329 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2330		pcbCap_2330 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2331		pcbCap_2331 	ref_gnd 	GCM155D70E106ME36_DC0V_125degC_0402_10uF
XpcbCap_C_brd_2332		pcbCap_2332 	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
XpcbCap_C_brd_2333		pcbCap_2333 	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
XpcbCap_C_brd_2334		pcbCap_2334 	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
XpcbCap_C_brd_2335		pcbCap_2335 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_2381		pcbCap_2381 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF
XpcbCap_C_brd_2382		pcbCap_2382 	ref_gnd		GCM155C71A105KE38_DC0V_125degC_0402_1uF

*** PCB cap, bulk superposition
XpcbCap_C_brd_2381_B		pcbCap_2381 	ref_gnd		GCM32ED70E107ME36_DC0V_125degC_1210_100uF
XpcbCap_C_brd_2382_B		pcbCap_2382 	ref_gnd		GCM32ED70E107ME36_DC0V_125degC_1210_100uF
XpcbCap_C_brd_1873_B		pcbCap_1873 	ref_gnd		GCM32ED70E107ME36_DC0V_125degC_1210_100uF
XpcbCap_C_brd_1866_B		pcbCap_1866 	ref_gnd		GCM32ED70E107ME36_DC0V_125degC_1210_100uF
XpcbCap_C_brd_2042_B		pcbCap_2042 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
XpcbCap_C_brd_2112_B		pcbCap_2112 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF

.if ( 0 )	*** additional PCB LF caps
	XpcbCap_C_brd_2266_B		pcbCap_2266 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_1963_B		pcbCap_1963 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2272_B		pcbCap_2272 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2335_B		pcbCap_2335 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2042_B2		pcbCap_2042 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_1963_B2		pcbCap_1963 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2266_B2		pcbCap_2266 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2112_B2		pcbCap_2112 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2272_B2		pcbCap_2272 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
	XpcbCap_C_brd_2335_B2		pcbCap_2335 	ref_gnd		GCM31CD70G476ME02_DC0V_125degC_1206_47uF
.endif 

*************************************** Pkg ***********************************
.if ( 0 )   *NOTE: pkge option 1

	Xblk_pkg
	+ bga_pkg		ref_gnd
	+ pkg_bump_0_0	ref_gnd
	+ pkg_bump_0_1	ref_gnd
	+ pkg_bump_0_2	ref_gnd
	+ pkg_bump_0_3	ref_gnd
	+ pkg_bump_1_0	ref_gnd
	+ pkg_bump_1_1	ref_gnd
	+ pkg_bump_1_2	ref_gnd
	+ pkg_bump_1_3	ref_gnd
	+ pkgCap_1		ref_gnd	
	+ pkgCap_2		ref_gnd	
	+ pkgCap_3		ref_gnd	
	+ pkgCap_4		ref_gnd	
	+ pkgCap_5		ref_gnd	
	+ pkgCap_6		ref_gnd	
	+ pkgCap_7		ref_gnd	
	+ pkgCap_8		ref_gnd	
	+ pkgCap_9		ref_gnd	
	+ pkgCap_10		ref_gnd	
	+ pkgCap_11		ref_gnd	
	+ pkgCap_12		ref_gnd	
	+ pkgCap_13		ref_gnd	
	+ pkgCap_14		ref_gnd	
	+ pkgCap_15		ref_gnd	
	+ pkgCap_16		ref_gnd	
	+ pkgCap_17		ref_gnd	
	+ pkgCap_18		ref_gnd	
	+ andes_0407_cut_NNE_IdEM_wt0p5
	*** Pkg cap ***
	XpkgCap_1	pkgCap_1	ref_gnd		pkgCap_1 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF 
	XpkgCap_2	pkgCap_2	ref_gnd		pkgCap_2 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_3	pkgCap_3	ref_gnd		pkgCap_3 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_4	pkgCap_4	ref_gnd		pkgCap_4 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_5	pkgCap_5	ref_gnd		pkgCap_5 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_6	pkgCap_6	ref_gnd		pkgCap_6 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_7	pkgCap_7	ref_gnd		pkgCap_7 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_8	pkgCap_8	ref_gnd		pkgCap_8 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
	XpkgCap_9	pkgCap_9	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
	XpkgCap_10	pkgCap_10	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
	XpkgCap_11	pkgCap_11	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
	XpkgCap_12	pkgCap_12	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
	XpkgCap_13	pkgCap_13	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
	XpkgCap_14	pkgCap_14	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF 
	XpkgCap_15	pkgCap_15	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
	XpkgCap_16	pkgCap_16	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
	XpkgCap_17	pkgCap_17	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
	XpkgCap_14_2	pkgCap_14	ref_gnd		GCM155D70E106ME36_DC0V_125degC_0402_10uF 
	XpkgCap_15_2	pkgCap_15	ref_gnd		GCM155D70E106ME36_DC0V_125degC_0402_10uF
	XpkgCap_16_2	pkgCap_16	ref_gnd		GCM155D70E106ME36_DC0V_125degC_0402_10uF
	XpkgCap_17_2	pkgCap_17	ref_gnd		GCM155D70E106ME36_DC0V_125degC_0402_10uF
	XpkgCap_18_2	pkgCap_18	ref_gnd		GCM155D70E106ME36_DC0V_125degC_0402_10uF

.endif 

   **********

.if ( 1 )   *NOTE: pkge option 2

	Xblk_pkg
	+ bga_pkg		ref_gnd
	+ pkgCap_1		ref_gnd	
	+ pkgCap_2		ref_gnd	
	+ pkgCap_3		ref_gnd	
	+ pkgCap_4		ref_gnd	
	+ pkgCap_5		ref_gnd	
	+ pkgCap_6		ref_gnd	
	+ pkgCap_7		ref_gnd	
	+ pkgCap_8		ref_gnd	
	+ pkgCap_9		ref_gnd	
	+ pkgCap_10		ref_gnd	
	+ pkgCap_11		ref_gnd	
	+ pkgCap_12		ref_gnd	
	+ pkgCap_13		ref_gnd	
	+ pkgCap_14		ref_gnd	
	+ pkgCap_15		ref_gnd	
	+ pkgCap_16		ref_gnd	
	+ pkgCap_17		ref_gnd	
	+ pkgCap_18		ref_gnd	
	+ pkgCap_19		ref_gnd	
	+ pkgCap_20		ref_gnd	
	+ pkgCap_21		ref_gnd	
	+ pkgCap_22		ref_gnd	
	+ pkgCap_23		ref_gnd	
	+ pkgCap_24		ref_gnd	
	+ pkgCap_25		ref_gnd	
	+ pkgCap_26		ref_gnd	
	+ pkgCap_27		ref_gnd	
	+ pkgCap_28		ref_gnd	
	+ pkg_bump_0_1	ref_gnd
	+ pkg_bump_1_2	ref_gnd
	+ pkg_bump_1_1	ref_gnd
	+ pkg_bump_0_3	ref_gnd
	+ pkg_bump_1_3	ref_gnd
	+ pkg_bump_0_0	ref_gnd
	+ pkg_bump_0_2	ref_gnd
	+ pkg_bump_1_0	ref_gnd
	+ pkge_230329_FCBGA_L12_mammoth_20230406_5_add0510_6_v2_IdEM
	*** Pkg cap ***
	.if ( 0 )  *** 5/12 3T cap obsolete due to non-feed through
		XpkgCap_1	pkgCap_1	ref_gnd		pkgCap_1 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF 
		XpkgCap_2	pkgCap_2	ref_gnd		pkgCap_2 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_3	pkgCap_3	ref_gnd		pkgCap_3 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_4	pkgCap_4	ref_gnd		pkgCap_4 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_5	pkgCap_5	ref_gnd		pkgCap_5 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_6	pkgCap_6	ref_gnd		pkgCap_6 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_7	pkgCap_7	ref_gnd		pkgCap_7 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_8	pkgCap_8	ref_gnd		pkgCap_8 	ref_gnd		NFM15HC105D0G3_feedthrough_DC0V_85degC_3T_0402_1uF
		XpkgCap_9	pkgCap_9	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
		XpkgCap_10	pkgCap_10	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
		XpkgCap_11	pkgCap_11	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
		XpkgCap_12	pkgCap_12	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
		XpkgCap_13	pkgCap_13	ref_gnd		GCM155D70G475ME36_DC0V_125degC_0402_4p7uF
		XpkgCap_14	pkgCap_14	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF 
		XpkgCap_15	pkgCap_15	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
		XpkgCap_16	pkgCap_16	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
		XpkgCap_17	pkgCap_17	ref_gnd		GCM033D70E105ME36_DC0V_125degC_0201_1uF
		XpkgCap_18	pkgCap_18	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_19	pkgCap_19	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_20	pkgCap_20	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_21	pkgCap_21	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_22	pkgCap_22	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_23	pkgCap_23	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_24	pkgCap_24	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_25	pkgCap_25	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_26	pkgCap_26	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_27	pkgCap_27	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_28	pkgCap_28	ref_gnd		str(mlcc_10uF_0402)
	.endif

	.if ( 1 )
		XpkgCap_1	pkgCap_1	ref_gnd		str(mlcc_1uF_0204) 
		XpkgCap_2	pkgCap_2	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_3	pkgCap_3	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_4	pkgCap_4	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_5	pkgCap_5	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_6	pkgCap_6	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_7	pkgCap_7	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_8	pkgCap_8	ref_gnd		str(mlcc_1uF_0204)
		XpkgCap_9	pkgCap_9	ref_gnd		str(mlcc_4p7uF_0402)
		XpkgCap_10	pkgCap_10	ref_gnd		str(mlcc_4p7uF_0402)
		XpkgCap_11	pkgCap_11	ref_gnd		str(mlcc_4p7uF_0402)
		XpkgCap_12	pkgCap_12	ref_gnd		str(mlcc_4p7uF_0402)
		XpkgCap_13	pkgCap_13	ref_gnd		str(mlcc_4p7uF_0402)
		XpkgCap_14	pkgCap_14	ref_gnd		str(mlcc_1uF_0201)
		XpkgCap_15	pkgCap_15	ref_gnd		str(mlcc_1uF_0201)
		XpkgCap_16	pkgCap_16	ref_gnd		str(mlcc_1uF_0201)
		XpkgCap_17	pkgCap_17	ref_gnd		str(mlcc_1uF_0201)
		XpkgCap_18	pkgCap_18	ref_gnd		str(mlcc_1uF_0201)
		XpkgCap_19	pkgCap_19	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_20	pkgCap_20	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_21	pkgCap_21	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_22	pkgCap_22	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_23	pkgCap_23	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_24	pkgCap_24	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_25	pkgCap_25	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_26	pkgCap_26	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_27	pkgCap_27	ref_gnd		str(mlcc_10uF_0402)
		XpkgCap_28	pkgCap_28	ref_gnd		str(mlcc_10uF_0402)
	.endif

.endif 

*************************************** Die ***********************************
Xblk_die_0_0	pkg_bump_0_0	ref_gnd	str(NNE_die_MA)	C_die= 'Cdie_MA'	R_die_1= 'Rdie_MA' 	R_die_2= 1.e-5	R_leak= 'Rleak'	
Xblk_die_0_1	pkg_bump_0_1	ref_gnd	str(NNE_die_MA)	C_die= 'Cdie_MA'	R_die_1= 'Rdie_MA' 	R_die_2= 1.e-5	R_leak= 'Rleak'	
Xblk_die_0_2	pkg_bump_0_2	ref_gnd	str(NNE_die_MA)	C_die= 'Cdie_MA'	R_die_1= 'Rdie_MA' 	R_die_2= 1.e-5	R_leak= 'Rleak'	
Xblk_die_0_3	pkg_bump_0_3	ref_gnd	str(NNE_die_MA)	C_die= 'Cdie_MA'	R_die_1= 'Rdie_MA' 	R_die_2= 1.e-5	R_leak= 'Rleak'		
Xblk_die_1_0	pkg_bump_1_0	ref_gnd	str(NNE_die_PA)	C_die= 'Cdie_PA'	R_die_1= 'Rdie_PA' 	R_die_2= 1.e-5	R_leak= 'Rleak'
Xblk_die_1_1	pkg_bump_1_1	ref_gnd	str(NNE_die_PA)	C_die= 'Cdie_PA'	R_die_1= 'Rdie_PA' 	R_die_2= 1.e-5	R_leak= 'Rleak'		
Xblk_die_1_2	pkg_bump_1_2	ref_gnd	str(NNE_die_PA)	C_die= 'Cdie_PA'	R_die_1= 'Rdie_PA' 	R_die_2= 1.e-5	R_leak= 'Rleak'		
Xblk_die_1_3	pkg_bump_1_3	ref_gnd	str(NNE_die_PA)	C_die= 'Cdie_PA'	R_die_1= 'Rdie_PA' 	R_die_2= 1.e-5	R_leak= 'Rleak'	

*************************************** Analysis I: AC simulation *************
.if ( 0 )
	.if ( 1 )
	*** NOTE: DO not include port def if tran analysis later
	P1 pkg_bump_0_0	ref_gnd	port=1	z0 = 0.1
	P2 pkg_bump_0_1	ref_gnd	port=2	z0 = 0.1
	P3 pkg_bump_0_2	ref_gnd	port=3	z0 = 0.1
	P4 pkg_bump_0_3	ref_gnd	port=4	z0 = 0.1
	P5 pkg_bump_1_0	ref_gnd	port=5	z0 = 0.1
	P6 pkg_bump_1_1	ref_gnd	port=6	z0 = 0.1
	P7 pkg_bump_1_2	ref_gnd	port=7	z0 = 0.1
	P8 pkg_bump_1_3	ref_gnd	port=8	z0 = 0.1

	
	.lin 	sparcalc=1 	filename=impedance_plot	noisecalc=0 	gdcalc=0	format=touchstone 	dataformat=MA 
	**.probe  ac s11(db) s11(p) s21(db) s21(p) 
	.probe ac zin(1)(m) zin(1)(p) zin(5)(m) zin(5)(p) 
	.endif 

	.ac 	dec 50 1. 1.G
	*I_pkg_bump_1_0 		pkg_bump_1_0	ref_gnd		AC=1
	*.probe AC v(pkg_bump_1_0)

.endif 

*************************************** Analysis II: Transient simulation *****
.if ( 1 )
	.tran tStep tSTOP 


	.probe tran v(pkg_bump_1_0) v(pkg_bump_0_0) 
	.probe x(Xblk_die_1_0.pin_bump)	x(Xblk_PCB.a_2)	x(Xblk_pkg.a_1)


	*.probe i(*)
	*.probe x(*)

.endif 